US06864396B2
A mixture of 1.0 gram of 1,2,3,4,8,10,11,12,13,17-decahydroheptacen-6,15-dione and 1,2,3,4,10,11,12,13-octahydroheptacen-6,8(15H,17H)-dione and 20 mL of 2-methoxyethyl ether was stirred and flushed with nitrogen for 15 minutes. To this was added 0.766 grams of sodium borohydride. The resulting mixture was stirred overnight at room temperature. To the mixture was added 7.2 mL of methanol and stirring was continued for 30 minutes. To the resulting mixture was added 0.2 grams of sodium borohydride, and stirring was continued at room temperature for 5 hours. The resulting mixture was heated to 60° C. for one hour. To the mixture was added 11.4 mL of glacial acetic acid and 7.3 mL of concentrated hydrochloric acid. The resulting mixture was heated at 60° C. for one hour. To this mixture was added 20 mL of water and the resulting solid was collected by filtration. The solid was washed with water followed by acetone followed by tetrahydrofuran and dried to give 1,2,3,4,10,11,12,13-octahydroheptacene.

reactant | 1,2,3,4,8,10,11,12,13,17-decahydroheptacen-6,15-dione | 1.0 gram | C1CCCC2=CC=3C(C4=CC=5CC6=CC=7CCCCC7C=C6C(C5C=C4CC3C=C12)=O)=O | C30H26O2
reactant | 1,2,3,4,10,11,12,13-octahydroheptacen-6,8(15H,17H)-dione | C1CCCC2=CC=3C(C4=CC=5C(C6=CC=7CCCCC7C=C6CC5C=C4CC3C=C12)=O)=O | C30H26O2
solvent | 2-methoxyethyl ether | 20 mL | COCCOCCOC | C6H14O3
product | 1,2,3,4,10,11,12,13-octahydroheptacene | C1CCCC2=CC3=CC4=CC5=CC6=CC=7CCCCC7C=C6C=C5C=C4C=C3C=C12 | C30H26
